US08686005B2
4-(5-Amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester:
A mixture of 5-amino-6-nitro-isoindole-1,3-dione (2.07 g, 10 mmol), tert-butyl 4-amino-piperidine-1-carboxylate (2.5 g, 12 mmol), imidazole (1.63 g, 24 mmol) in dioxane (100 mL) was sealed in a ChemGlass heavy wall pressure flask. After it was heated at 140° C. for 72 h, the reaction mixture was evaporated to dryness at 95° C. (the bath temperature) under reduced pressure. The chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (320:10:1) afforded the title compound (2.09 g, 54%). 1H NMR (CDCl3) δ 1.49 (s, 9H), 1.73 (m, 2H), 2.38 (m, 2H), 2.80 (m, 2H), 4.20-4.31 (3H), 7.03 (br s, 2H, NH), 7.34 (s, 1H), 8.61 (s, 1H); ESI-MS m/z 391.5 (MH+).

reactant | 5-amino-6-nitro-isoindole-1,3-dione | 10 mmol, 2.07 g | NC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H5N3O4
reactant | tert-butyl 4-amino-piperidine-1-carboxylate | 12 mmol, 2.5 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | imidazole | 24 mmol, 1.63 g | N1C=NC=C1 | C3H4N2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-(5-Amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.09 g, 54% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC(=C(C=C2C1=O)N)[N+](=O)[O-])=O | C18H22N4O6
